US05438058
Preparation of 2,4-dimethyl-6-chloropyrimidine 3-oxide
20 g (14.03×10-2 mol) of 2,4-dimethyl-6-chloropyrimidine are dissolved in 300 ml of dichloromethane in a 500 ml three-necked flask fitted with a thermometer and a magnetic stirrer. The mixture is cooled to 5° C. and 65.3 g of 55% metachloroperbenzoic acid, which is about 1.5 equivalents, are then added in solid portions. The reaction mixture is then stirred for 24 hours at ambient temperature (25° C.) and then filtered through a 3 frit. The filtrate is washed with 150 ml of a 6% aqueous sodium hydroxide solution and then with 2×50 ml of water to render neutral. It is then dried over sodium sulphate and then filtered through paper and evaporated. The crude mass is recrystallised from n-hexane.

reactant | 2,4-dimethyl-6-chloropyrimidine | 14.03×10-2 mol, 20 g | CC1=NC(=CC(=N1)C)Cl | C6H7ClN2
reactant | metachloroperbenzoic acid | 65.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 2,4-dimethyl-6-chloropyrimidine 3-oxide | CC1=NC(=CC(=[N+]1[O-])C)Cl | C6H7ClN2O
